US06967216B2
3-Bromo-5,5-dioxo-2-pivaloylaminodibenzothiophene
2-Amino-3-bromo-5,5-dioxidodibenzothiophene (DE 2638081; 0.309 g, 1.0 mmol) was suspended in a solution of DCM (5 ml) and triethylamine (0.111 g, 1.1 mmol). Pivaloyl chloride (0.132 g, 1.1 mmol) was added dropwise and the resultant mixture stirred for 5 days at ambient temperature. The mixture was reduced to dryness and the residue was triturated with methanol. NMR: 9.25 (s, 1H), 8.42 (s, 1H), 8.31 (s, 1H), 8.11 (d, 1H), 7.98 (d, 1H), 7.80 (t, 1H), 7.68 (t, 1H), 1.28 (s, 9H); m/z 394/396.

reactant | 2-Amino-3-bromo-5,5-dioxidodibenzothiophene | 1.0 mmol, 0.309 g | NC1=CC2=C(S(C3=C2C=CC=C3)(=O)=O)C=C1Br | C12H8BrNO2S
reactant | triethylamine | 1.1 mmol, 0.111 g | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 1.1 mmol, 0.132 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5,5-dioxo-2-pivaloylaminodibenzothiophene | BrC=1C(=CC2=C(S(C3=C2C=CC=C3)(=O)=O)C1)NC(C(C)(C)C)=O | C17H16BrNO3S
